US04814173
Chlorpheniramine maleate, 15 g, is dissolved in 150 ml of water, to which about 20 ml of ammonium hydroxide is added. The resulting precipitate is extracted with diethyl ether (2×50 ml), washed with water, and dried with anhydrous sodium sulfate. The diethyl ether is evaporated under a stream of nitrogen to give chlorpheniramine free base. The chlorpheniramine free base is dissolved in a mixture of linoleic acid, propylene glycol, and triacetin. The previous mixture is uniformly dispersed in a mixture of medical grade dimethylsiloxane and dibutyl tin dilaurate. The resulting mixture is casted as a membrane on a smooth Teflon surface in a mold and allowed to cure at room temperature for about eighteen hours. The resulting material is applied as a film on adhesive tape.

reactant | Chlorpheniramine maleate | CN(C)CCC(C=1C=CC(=CC1)Cl)C=2C=CC=CN2.C(=C\C(=O)O)\C(=O)O
solvent | water | 150 ml | O | H2O
solvent | ammonium hydroxide | about 20 ml | [OH-].[NH4+]
product | chlorpheniramine | CN(C)CCC(C=1C=CC(=CC1)Cl)C=2C=CC=CN2 | C16H19ClN2
